US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-methylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (73.0 mg, 0.131 mmol) in DCM (5 ml) was added TFA (1.5 mL) and the reaction mixture was stirred for 4 hours at room temperature. The reaction was quenched with saturated sodium bicarbonate and the organic layer was separated. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-({4-chloro-3-[(3-chloro-5-methylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (32 mg, 0.075 mmol, 57% yield). 1H NMR (400 MHz, DMSO-d5) δ ppm 12.74-13.45 (m, 1H), 7.97-8.44 (m, 1H), 7.73 (s, 1H), 7.44 (d, 1H), 7.29 (t, 1H), 6.98 (s, 1H), 6.69 (d, 2H), 4.27-4.76 (m, 2 H), 2.23 (s, 3H). LC-MS (ES+) m/z 427.91, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-methylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.131 mmol, 73.0 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C)Cl)F)COCC[Si](C)(C)C | C24H27Cl3FN3O3Si
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-methylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.075 mmol, 32 mg, 57% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C)Cl)F | C18H13Cl3FN3O2
